US04302458
(a) 2-formyl-3,4,5-trimethoxy-phenylethylamine
1.422 kg of 3,4,5-trimethoxy-phenylethylamine is slowly added to a mixture of 2.185 kg of 98% formic acid and 1.728 kg of acetic anhydride, while maintaining the temperature at about 50°. The reaction bath is maintained at this temperature for about 3 hours and the formic acid and acetic acid mixture and the excess anhydride is distilled. The formylated derivative thus obtained (1.734 kg) is used unpurified.

reactant | 3,4,5-trimethoxy-phenylethylamine | 1.422 kg | COC=1C=C(C=C(C1OC)OC)CCN | C11H17NO3
reactant | acetic anhydride | 1.728 kg | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 2.185 kg | C(=O)O | CH2O2
product | 2-formyl-3,4,5-trimethoxy-phenylethylamine | C(=O)C(CN)C1=CC(=C(C(=C1)OC)OC)OC | C12H17NO4
